data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8674,"C[C:1]1([OH+:2]C)OCC=C1O|((1, 2), 2)"
train,pmechdb_split_0,0,7024,"C1=CC=C([C:1]([CH:2]=[CH2:3])=[O:4])C=C1.O[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1732,"C1=CC=[N:1]C=C1.C=C(C)C1CC2C=CC(C)C(C)(C1)[C+:2]2[CH2:3][H:4].CS(=O)(=O)[O-]|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,2541,"CO[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,1339,"CC(O)C=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5864,"IC1CC2O[C:1]3([O-:2])CC2C1[O:3]3.O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9078,"CC(C)(C)OC(=O)NC(CCCNC(=O)OCC1=CC=CC=C1)C(=O)[O:1][H:2].CC(C=[O:3])NC(=O)OCC1C2=CC=CC=C2C2=C1C=CC=C2.[C-]#[N+]C(CC(C)C)C(=O)OCC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5213,"C[O+](C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5CC2=CC=CC=C2)C=C1)[B-:1](Br)(Br)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6061,"CC(=O)O.O.O=C(O)C[NH:1]C(=CC[C:2](C1=CC=CO1)=[O:3])C1=CC=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1452,"C=CC(=O)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6029,"CC=C[CH2:1][Cl:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9889,"CCC1CCC[C+:1](C)[CH:2]1[H:3].CC[OH:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6035,"CCNC[CH:1]=[C:2](NCC)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6692,"CC[OH:1].C[CH:2]1C[OH+:3]1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3036,"C[N-:1][CH:2]=[CH:3]CC1=CC=CC=C1.[H:4][OH2+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5990,"CCCCCC1CC(CCC)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7798,"CCC(C)C(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NC1CCCC1.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3986,"C=C1CC23CC1C([O][Al-:1]([O]C(C)C)([O]C(C)C)[O+:2]=C(C)C)CC2C1(C)CCCC(C)(C(=O)OC)C1C3C(=O)OC.CC(C)O|((1, 2), 2)"
train,pmechdb_split_0,0,577,"CCOC(=O)CC[CH2:1][Br:2].N#CC1=CC=CC([O-:3])=C1.[H][H].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6142,"C1=CC=C(O[C:1](C2=CC=CC=C2)=[O:2])C=C1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9372,"CC(C)(C)[S][Li:1].COC(C=CCBr)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,1960,"CNC=[N:1]C.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,3896,"CC[NH2:1].C[CH:2]=[NH+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6464,"CC(C=O)=CCCC(C)[CH:1]([H:2])[CH:3]=[N+:4](C)C1=CC=CC=C1.C[NH:5]C1=CC=CC=C1.O|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,973,"C=C1CC2([O+]([Al-]([Cl])([Cl])[CH2]C)[Si-:1](C)(C)(C)[Cl:2])CCCC1C2|((1, 2), 2)"
train,pmechdb_split_0,0,6154,"CC[C:1](C(C)C)([CH:2](C)[H:3])[N+:4](C)(C)C.[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,5528,"[Li][O:1][C:2](C)(C1=CC=CC=C1)[O:3]C(=O)CCC=O|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3217,"C1C[NH:1]CCO1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2199,"CCNC[CH:1]=[CH:2][NH:3]C.O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2192,"C1=CC=[N:1]C=C1.C[CH:2]([H:3])[S+:4](OC(=O)C(F)(F)F)C1=CC=CC=C1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,1712,"CC=CCCC[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8041,"CO[C:1]1=[CH:2]C(CC[CH2:3][Br:4])[N+](C(C)C)(C(C)C)[Li-][O:5]1|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1205,"O=CCCC(=O)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3023,"COC(=O)C1(C)CCCC2(C)C3CC4CCC3(CCC12)CC4(C)[OH:1].O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8419,"C[C:1](OS(=O)Cl)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2696,"CO[C+:1]1C2=CC=CC=C2[C:2](Br)([H:3])[CH:4]=[CH:5]1.[Br-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,9946,"FC(F)(F)C1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,1124,"CCO[Si:1](C)(C)C.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,9718,"S[CH:1]([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8160,"[CH:1](=[NH2+:2])[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5425,"C[P+:1](C)(Cl)[Mg][Cl].[Cl][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,2980,"CC1(C)CCC[O+:1]1[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5753,"CC(=O)O[Si-:1](C)(C)(C(C)(C)C)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,8269,"CC1=CC=C([S:1](=O)(Cl)=[O:2])C=C1.CC[NH+](CC)CC.IC1=C(CC[NH2:3])C=C2OCOC2=C1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9546,"CC1(C)CCCCC1[C+:1](C)C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,4044,"CCOCC.C[N+](C)=CCl.F[B:1](F)F.O=P(Cl)(Cl)Cl.OC1=CC=C(CC(C2=C(O)C=C(O)C=C2O)=[O:2])C=C1|(2, 1)"
train,pmechdb_split_0,0,6121,"C1=CC2=C(C=C1)SC([S-:1])=N2.C[CH:2](C1=CC=CC=C1)[O:3][P+:4](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.SC1=NC2=C(C=CC=C2)S1|(1, 2);((2, 3), 4)"
train,pmechdb_split_0,0,889,"C[CH:1]=[O+:2]C.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6681,"CC(=O)[O:1][H:2].O=C1NC2=C(C(C(F)(F)F)=CC=C2)C1([NH2+]C1=CC(C(F)(F)F)=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
